US04382089
A mixture of 2.32 g (18 mmol) 5-oxo-L-proline, 1.39 ml (18 mmol) dimethylformamide, and 45 ml of dichloromethane is stirred at 0°-5° and 1.32 ml (18 mmol) of thionyl chloride is added. The reaction mixture is stirred at 0°-5° for 1 hour. A mixture of 2.45 g (12 mmol) of 6-amino-1,2-dihydro-2-oxo-3-quinolinecarboxylic acid, 100 ml of dichloromethane, 5.04 ml (36 mmol) triethylamine and 4.57 ml (36 mmol) chlorotrimethylsilane is stirred at room temperature for 40 min and then is cooled to 0°-5°. The solution of the acid chloride complex is added to the silylated quinoline acid and is stirred with cooling for 4 hours and at room temperature overnight. The reaction mixture is evaporated to dryness, and the residue is treated with methanol and filtered to give 2.1 g of 1,2-dihydro-2-oxo-6-[(5-oxo-2-pyrrolidinyl)amino]3-quinolinecarboxylic acid. mp>300°

reactant | 5-oxo-L-proline | 18 mmol, 2.32 g | O=C1CC[C@H](N1)C(=O)O | C5H7NO3
reactant | dimethylformamide | 18 mmol, 1.39 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 18 mmol, 1.32 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 6-amino-1,2-dihydro-2-oxo-3-quinolinecarboxylic acid | 12 mmol, 2.45 g | NC=1C=C2C=C(C(NC2=CC1)=O)C(=O)O | C10H8N2O3
reactant | triethylamine | 36 mmol, 5.04 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 36 mmol, 4.57 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
product | 1,2-dihydro-2-oxo-6-[(5-oxo-2-pyrrolidinyl)amino]3-quinolinecarboxylic acid | 2.1 g | O=C1NC2=CC=C(C=C2C=C1C(=O)O)NC1NC(CC1)=O | C14H13N3O4
